.subckt na41 A B C D VDD VSS X
M7 N003 A VSS VSS nchorex1 w=2u l=1u
M6 N002 B N003 VSS nchorex1 w=2u l=1u
M5 N001 C N002 VSS nchorex1 w=2u l=1u
M4 X D N001 VSS nchorex1 w=2u l=1u
M3 X D VDD VDD pchorex1 w=6u l=1u
M2 X C VDD VDD pchorex1 w=6u l=1u
M1 X B VDD VDD pchorex1 w=6u l=1u
M0 X A VDD VDD pchorex1 w=6u l=1u
.ends na41